US07943605B2
Piperidine a14 (0.7 g, 8.3 mmol, 1.5 eq) is added to a suspension of [(2S)-5-oxopyrrolidin-2-yl]methyl 4-methylbenzenesulfonate a13 (1.5 g, 5.56 mmol, 1 eq) and potassium carbonate (1.5 g, 11.1 mmol, 2 eq) in acetonitrile (50 ml), and the mixture is stirred at reflux overnight. Potassium carbonate is filtered and the solvent is removed in vacuo. The residue is dissolved in a minimum of dichloromethane, then the organic layer is sonicated and heated to precipitate a white solid which is filtered. The liquid phase is concentrated in vacuo to give 1 g of (5S)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one a15 as a yellow oil.

reactant | Piperidine | N1CCCCC1 | C5H11N
reactant | [(2S)-5-oxopyrrolidin-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1NC(CC1)=O | C12H15NO4S
reactant | potassium carbonate | 11.1 mmol, 1.5 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (5S)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one | 1 g, Yield: 100% | N1(CCCCC1)C[C@@H]1CCC(N1)=O | C10H18N2O
